US04002755
To a solution of 9.7 g of 2-chloro-4-phenyl-6-methoxyquinazoline in 300 ml of ethanol were added 15 ml of hydrazine hydrate and 8 ml of glacial acetic acid and the mixture was refluxed for 5 hours. After the precipitate was filtered off, the filtrate was concentrated in vacuo to give crystals. The crystals were collected by filtration, washed with ethanol, and dried to give 7.8 g of 2-hydrazino-4-phenyl-6-methoxyquinazoline, a part of which was recrystallized from ethanol to give yellow scales, m.p. 151° - 152° C.

reactant | 2-chloro-4-phenyl-6-methoxyquinazoline | 9.7 g | ClC1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)OC | C15H11ClN2O
reactant | hydrazine hydrate | 15 ml | O.NN
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-hydrazino-4-phenyl-6-methoxyquinazoline | 7.8 g | N(N)C1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)OC | C15H14N4O
